US05510533
An autoclave was charged with 66.8 g of 2-chloro-1,3,5-trifluorobenzene, 5 g of water and 65 g of copper powder, and the content was heated at 300° C. with high speed stirring for 28 hours. After the reaction, the content was distilled off, and the fraction distilled at 74° to 77° C. was collected and dried over sodium sulfate to obtain 1,3,5-trifluorobenzene in an amount of 38.5 g (yield 73%).

reactant | 2-chloro-1,3,5-trifluorobenzene | 66.8 g | ClC1=C(C=C(C=C1F)F)F | C6H2ClF3
catalyst | copper | 65 g | [Cu] | Cu
solvent | water | 5 g | O | H2O
product | 1,3,5-trifluorobenzene | yield 73% | FC1=CC(=CC(=C1)F)F | C6H3F3
